US08685980B2
To a stirred solution of (5-bromo-2-chloro pyrimidin-4-yl)-cyclopentyl-amine (1.00 g, 3.62 mmol) and PdCl2(dppf).dichloromethane (148 mg, 0.181 mmol) in THF (10 mL) is added Et3N (0.757 mL, 5.43 mmol) and 3,3-diethoxy-propyne (0.778 mL, 5.43 mmol) sequentially at room temperature. The mixture is degassed under a stream of N2 and stirred at room temperature for 10 minutes before CuI (29 mg, 0.154 mmol) is added. The reaction vessel is evacuated and back-filled with N2 (×3) and heated at 60° C. for 48 hours. The mixture is allowed to cool, diluted with EtOAc, filtered and partitioned between H2O and ethyl acetate. The phases are separated and the aqueous layer is further extracted with EtOAc (×3), combined organic extracts are dried (MgSO4), filtered and concentrated. The residue is purified by SiO2 chromatography, eluting with a gradient of 5% EtOAc/petrol to 20% EtOAc/petrol to give [2-chloro-5-(3,3-diethoxy-prop-1-ynyl)-pyrimidin-4-yl]-cyclopentyl amine (636 mg, 54%). MS (ESI) m/z 324.2 (M+H)+

reactant | (5-bromo-2-chloro pyrimidin-4-yl)-cyclopentyl-amine | 3.62 mmol, 1.00 g | BrC=1C(=NC(=NC1)Cl)NC1CCCC1 | C9H11BrClN3
reactant | dichloromethane | 0.181 mmol, 148 mg | ClCCl | CH2Cl2
reactant | Et3N | 5.43 mmol, 0.757 mL | CCN(CC)CC | C6H15N
reactant | 3,3-diethoxy-propyne | 5.43 mmol, 0.778 mL | C(C)OC(C#C)OCC | C7H12O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 0.154 mmol, 29 mg | [Cu]I
product | [2-chloro-5-(3,3-diethoxy-prop-1-ynyl)-pyrimidin-4-yl]-cyclopentyl amine | 636 mg, 54% | ClC1=NC=C(C(=N1)NC1CCCC1)C#CC(OCC)OCC | C16H22ClN3O2
